US05216171
2-Butyrylamino-4-trichloromethylpyridine
7.3 ml (0.07 mol) of butyryl chloride were added to 10.6 g (0.05 mol) of 2-amino -4-trichloromethylpyridine and 70 ml of pyridine at 0° C. while cooling with ice. After stirring for three hours at 25° C., the reaction mixture was added to 5% strength hydrochloric acid and this mixture was extracted with ether. 12.7 g (90%) of the product wre obtained from the organic phase. Mp.: 88°-90° C., Active ingredient Example 1.003

reactant | butyryl chloride | 0.07 mol, 7.3 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | 2-amino -4-trichloromethylpyridine | 0.05 mol, 10.6 g | NC1=NC=CC(=C1)C(Cl)(Cl)Cl | C6H5Cl3N2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 2-Butyrylamino-4-trichloromethylpyridine | 12.7 g, 90% | C(CCC)(=O)NC1=NC=CC(=C1)C(Cl)(Cl)Cl | C10H11Cl3N2O
